US07612075B2
A. 5′-Chloro-[2,2′]bithiophenyl-5-carbaldehyde.
To a solution of 5-chloro-[2,2′]bithiophene (1.06 g, 5.28 mmol) in 12 mL of THF at −78° C. is added n-BuLi (4.4 mL of a 1.6M solution in hexanes, 6.99 mmol). After 15 minutes, DMF (0.97 mL, 14 mmol) is added and the resulting solution is allowed to warm to 0° C. After 15 min, the solution diluted with EtOAc and quenched with saturated NaHCO3 solution. The organic solution is washed with H2O and saturated NaCl solution, then dried over MgSO4, filtered and concentrated. The crude product is purified by flash column chromatography eluting with a gradient of 10% Et2O/hexanes to 20% Et2O/hexanes to yield the title compound (0.89 g, 3.89 mmol) as a white solid. 1H NMR (CDCl3, 300 MHz) δ9.87 (s, 1H), 7.70 (d, 1H), 7.20 (d, 1H), 7.15 (d, 1H), 6.91 (d, 1H).

reactant | 5-chloro-[2,2′]bithiophene | 5.28 mmol, 1.06 g | ClC1=CC=C(S1)C=1SC=CC1 | C8H5ClS2
reactant | n-BuLi | [Li]CCCC
reactant | DMF | 14 mmol, 0.97 mL | CN(C)C=O | C3H7NO
solvent | THF | 12 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 5′-Chloro-[2,2′]bithiophenyl-5-carbaldehyde | 3.89 mmol, 0.89 g | ClC1=CC=C(S1)C=1SC(=CC1)C=O | C9H5ClOS2
